US06586435B2
1-methyl-1,3-dihydro-2H-benzimidazol-2-one
A solution of 1-isopropenyl-1,3-dihydro-2H-benzimidazol-2-one (30 g, 0.172 moles) in DMF (180 ml) was added dropwise over 30 minutes to a suspension of 80% sodium hydride (5.42 g, 0.181 moles) in DMF (60 ml). The reaction mixture was heated at 45° C. for 45 minutes then a solution of methyl iodide (16.1 ml, 0.258 moles) in DMF (50 ml) was added dropwise. The reaction mixture was heated at 80° C. to 90° C. for 45 minutes, cooled at room temperature and adjusted to pH 3 to 4 with 37% HCl and heated at 80° C. for 30 minutes. The reaction mixture was cooled at room temperature and poured into ice/water. The solid residue separated was filtered and dried to give 19 g of the title compound, m.p. 188° C.-190° C.

reactant | 1-isopropenyl-1,3-dihydro-2H-benzimidazol-2-one | 0.172 moles, 30 g | C(=C)(C)N1C(NC2=C1C=CC=C2)=O | C10H10N2O
reactant | sodium hydride | 0.181 moles, 5.42 g | [H-].[Na+]
reactant | methyl iodide | 0.258 moles, 16.1 ml | CI | CH3I
reactant | HCl | Cl | ClH
solvent | DMF | 180 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 19 g | CN1C(NC2=C1C=CC=C2)=O | C8H8N2O
